US07361687B2
N-methyl-2,4-dichloro-3-methylbenzenesulphonamide
A suspension of 2.55 g (37.8 mM) of methanamine hydrochloride is prepared in 120 ml of dichloromethane (DCM) and 7.5 g of 2,4-dichloro-3-methylbenzenesulphonyl chloride in solution in 30 ml of DCM, and 10.5 ml of triethylamine, are added; the reaction mixture is kept under agitation for 15 hours at ambient temperature and then washed with a solution of 1N hydrochloric acid, with a solution of sodium bicarbonate, and then with water. The organic phase is dried over magnesium sulphate and then concentrated under reduced pressure. The solid residue obtained is purified by chromatography on silica gel in eluting with the aid of a mixture of cyclohexane/ethyl acetate (8/2, v/v). 6.2 g of the expected compound are thus obtained as a white solid (yield=85%).

reactant | methanamine hydrochloride | 37.8 mM, 2.55 g | Cl.CN
reactant | 2,4-dichloro-3-methylbenzenesulphonyl chloride | 7.5 g | ClC1=C(C=CC(=C1C)Cl)S(=O)(=O)Cl | C7H5Cl3O2S
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | DCM | 30 ml | ClCCl | CH2Cl2
product | N-methyl-2,4-dichloro-3-methylbenzenesulphonamide | 6.2 g | CNS(=O)(=O)C1=C(C(=C(C=C1)Cl)C)Cl | C8H9Cl2NO2S
